US06083908
To a solution of N-methyl-N-((1R)-1-(N-methyl-N-[(1R)-1-(N'-methylhydrazinocarbonyl)-2-phenylethyl]carbamoyl)-2-(2-naphthyl)ethyl)carbamic acid ((9H-fluoren-9-yl)methyl) ester (0.18 g, 0.28 mmol) in methylene chloride (2 ml) was added acetic acid anhydride (0.053 ml) and pyridine (0.027 ml) and the mixture was stirred overnight. The mixture was concentrated in vacuo and stripped three times with methylene chloride to give 0.21 g (110%) of N-((1R)-1-(N-[(1R)-2-(N'-acetyl-N'-methylhydrazino)-1-benzyl-2-oxoethyl]-N-methylcarbamoyl)-2-(2-naphthyl)ethyl)-N-methylcarbamic acid ((9H-fluoren-9-yl)methyl) ester as a colourless oil.

reactant | N-methyl-N-((1R)-1-(N-methyl-N-[(1R)-1-(N'-methylhydrazinocarbonyl)-2-phenylethyl]carbamoyl)-2-(2-naphthyl)ethyl)carbamic acid ((9H-fluoren-9-yl)methyl) ester | 0.28 mmol, 0.18 g | C1=CC=CC=2C3=CC=CC=C3C(C12)COC(N([C@H](CC1=CC2=CC=CC=C2C=C1)C(N([C@H](CC1=CC=CC=C1)C(=O)NNC)C)=O)C)=O | C40H40N4O4
reactant | acetic acid anhydride | 0.053 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | pyridine | 0.027 ml | N1=CC=CC=C1 | C5H5N
solvent | methylene chloride | 2 ml | C(Cl)Cl | CH2Cl2
product | N-((1R)-1-(N-[(1R)-2-(N'-acetyl-N'-methylhydrazino)-1-benzyl-2-oxoethyl]-N-methylcarbamoyl)-2-(2-naphthyl)ethyl)-N-methylcarbamic acid ((9H-fluoren-9-yl)methyl) ester | 0.21 g, 110% | C1=CC=CC=2C3=CC=CC=C3C(C12)COC(N(C)[C@H](CC1=CC2=CC=CC=C2C=C1)C(N(C)[C@@H](C(=O)NN(C)C(C)=O)CC1=CC=CC=C1)=O)=O | C42H42N4O5
